US06420375B1
Preparation of (E)-3-(2-methoxy-3-quinolinyl)-2-propen-1-ol
A mixture of (E)-3-(2-chloro-3-quinolinyl)-2-propen-1-ol (5.74 g) and sodium methoxide (28% in methanol; 10 ml) in MeOH (30 ml) was refluxed for 2 hours. The mixture was diluted with ethyl acetate, washed with water and brine, dried and concentrated. The residue was washed with cyclohexane-i-Pr2O to give the titled compound (4.50 g; 80%) as a colorless solid.

reactant | (E)-3-(2-chloro-3-quinolinyl)-2-propen-1-ol | 5.74 g | ClC1=NC2=CC=CC=C2C=C1/C=C/CO | C12H10ClNO
reactant | sodium methoxide | 10 ml | C[O-].[Na+]
solvent | MeOH | 30 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-3-(2-methoxy-3-quinolinyl)-2-propen-1-ol | 4.50 g, 80% | COC1=NC2=CC=CC=C2C=C1/C=C/CO | C13H13NO2
